US05356926
3-[[[5-Methoxy-3-(1-methylethoxy)benzo[b]thien-2-yl]carbonyl]amino]benzoic acid
Following a procedure analogous to Example 12, 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxylic acid (7.0 g, 26 mmol) and ethyl 3-aminobenzoate (4.3 g, 26 mmol) provides 8.5 g (78%) of the intermediate ester. Saponification of the crude ester followed by recrystallization from aqueous ethanol gives 4.2 g (53%) of product; mp 197°-200° C. (dec).

reactant | 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxylic acid | 26 mmol, 7.0 g | COC1=CC2=C(SC(=C2OC(C)C)C(=O)O)C=C1 | C13H14O4S
reactant | ethyl 3-aminobenzoate | 26 mmol, 4.3 g | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
product | 3-[[[5-Methoxy-3-(1-methylethoxy)benzo[b]thien-2-yl]carbonyl]amino]benzoic acid | 8.5 g, 78% | COC1=CC2=C(SC(=C2OC(C)C)C(=O)NC=2C=C(C(=O)O)C=CC2)C=C1 | C20H19NO5S
